US06479487B1
1-(2,6-Dichlorobenzyl)-4-piperidone is prepared from 4-piperidone and α,2,6-trichlorotoluene essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | α,2,6-trichlorotoluene | ClCC1=C(C=CC=C1Cl)Cl | C7H5Cl3
product | 1-(2,6-Dichlorobenzyl)-4-piperidone | ClC1=C(CN2CCC(CC2)=O)C(=CC=C1)Cl | C12H13Cl2NO
